US06020345
Preparation of 6-formylpyridine-2-carboxylic Acid Methyl Ester (IVo)
A solution of 3 g of 6-hydroxymethylpyridine-2-carboxylic acid methyl ester (16.5 mmol) in 70 ml of 1,2-dichloroethane containing 15 g of manganese dioxide (165 mmol) is heated under reflux for 4 hours with removal of the water formed continuously. The solid is removed by filtration on celite and then the dichloromethane is evaporated off. The title product is isolated by chromatography on a silica column (eluent: dichloromethane/ethyl acetate; 70:30). 2.33 g of a yellow oil are recovered.

reactant | 6-hydroxymethylpyridine-2-carboxylic acid methyl ester | 16.5 mmol, 3 g | COC(=O)C1=NC(=CC=C1)CO | C8H9NO3
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 70 ml, 15 g | ClCCCl | C2H4Cl2
catalyst | manganese dioxide | 165 mmol | [O-2].[O-2].[Mn+4]
product | 6-formylpyridine-2-carboxylic Acid Methyl Ester | Yield: 79% | COC(=O)C1=NC(=CC=C1)C=O | C8H7NO3
